US07361659B2
2-Amino-4-methyl-thiazole-5-sulfonic acid (2-dimethylamino-ethyl)-amide
A stirred suspension of 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-dimethylamino-ethyl)-amide (1.0 g, 3.26 mmol) in 6N hydrochloric acid (13 ml) was heated for 2 h at 80° C., and 2N NaHCO3 solution (100 ml) was added. The mixture was extracted with ethyl acetate (3×50 ml), the combined organic layers washed with brine (50 ml) and dried (MgSO4). The crude product was further purified by crystallization (ethyl aceate) to yield the title compound (0.68 g, 79%) as a white solid. MS (ISP) 262.9 [(M−H)−]; mp 153° C.

reactant | 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-dimethylamino-ethyl)-amide | 3.26 mmol, 1.0 g | CN(CCNS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)C | C10H18N4O3S2
reactant | NaHCO3 | 2N, 100 ml | C(=O)(O)[O-].[Na+]
solvent | hydrochloric acid | 6N, 13 ml | Cl | ClH
product | 2-Amino-4-methyl-thiazole-5-sulfonic acid (2-dimethylamino-ethyl)-amide | 0.68 g, 79% | CN(CCNS(=O)(=O)C1=C(N=C(S1)N)C)C | C8H16N4O2S2
